US09302991B2
<Step-1>: methyl 2-methyl-6-propionamidoisonicotinate
The title compound is prepared in 60% yield (2.16 g, a pale yellow solid) from methyl 2-chloro-6-methylisonicotinate (3.00 g, 16.2 mmol) and propionamide by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloro-6-methylisonicotinate | 16.2 mmol, 3.00 g | ClC=1C=C(C(=O)OC)C=C(N1)C | C8H8ClNO2
reactant | propionamide | C(CC)(=O)N | C3H7NO
product | methyl 2-methyl-6-propionamidoisonicotinate | 60% yield | CC=1C=C(C(=O)OC)C=C(N1)NC(CC)=O | C11H14N2O3
